US09238639B2
A) Methyl(6-hydroxy-4-ethyl-1-benzothiophen-3-yl)acetate
A mixture of methyl(6-hydroxy-4-vinyl-1-benzothiophen-3-yl)acetate (230 mg), 10% Pd—C (50% wet, 99 mg) and EtOAc (5 mL) was hydrogenated under balloon pressure at room temperature overnight. The catalyst was removed by filtration and the filtrate was concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (89 mg).

reactant | methyl(6-hydroxy-4-vinyl-1-benzothiophen-3-yl)acetate | 230 mg | COC(CC1=CSC2=C1C(=CC(=C2)O)C=C)=O | C13H12O3S
catalyst | Pd—C | 99 mg | [Pd] | Pd
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
product | Methyl(6-hydroxy-4-ethyl-1-benzothiophen-3-yl)acetate | 89 mg | COC(CC1=CSC2=C1C(=CC(=C2)O)CC)=O | C13H14O3S
